US04833169
20 g (0.1 mol) of 6-methoxyindan-1-ylmethylazide are dissolved in 400 ml of diethyl ether and added dropwise, at 25-30° , to a suspension of 5.0 g (0.13 mol) of lithium aluminium hydride in 200 ml of diethyl ether. When the addition has been completed, the mixture is maintained under reflux for 6 hours and, while cooling with ice, 5 ml of water, 5 ml of 15% sodium hydroxide solution and 15 ml of water are added thereto. The white precipitate which has formed is filtered off and boiled up 3 times with dichloromethane. The organic filtrates are combined, dried over magnesium sulphate and concentrated to dryness by evaporation in vacuo. The N-(6-methoxyindan-1-ylmethyl)amine which is obtained as an oily residue is converted into the hydrochloride with ethereal hydrochloric acid and recrystallised from isopropanol/diethyl ether. The pure 6-methoxyindan-1ylmethylammonium chloride melts at 129°-131°.

reactant | 6-methoxyindan-1-ylmethylazide | 0.1 mol, 20 g | COC1=CC=C2CCC(C2=C1)CN=[N+]=[N-] | C11H13N3O
reactant | lithium aluminium hydride | 0.13 mol, 5.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-(6-methoxyindan-1-ylmethyl)amine | COC1=CC=C2CCC(C2=C1)CN | C11H15NO
